US09102591B2
2-chloro-N-(3-(1-(trifluoromethyl)cyclopropyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)propyl)benzamide
From 2-chlorobenzoic acid and 3-(1-(trifluoromethyl)cyclopropyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)propan-1-amine. LCMS (MH+): m/z=452.0, tR (minutes, Method F)=3.03

reactant | 2-chlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1 | C7H5ClO2
reactant | 3-(1-(trifluoromethyl)cyclopropyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)propan-1-amine | FC(C1(CC1)CC(CN)C=1C=NC(=NC1)C(F)(F)F)(F)F | C12H13F6N3
product | 2-chloro-N-(3-(1-(trifluoromethyl)cyclopropyl)-2-(2-(trifluoromethyl)pyrimidin-5-yl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2(CC2)C(F)(F)F)C=2C=NC(=NC2)C(F)(F)F)C=CC=C1 | C19H16ClF6N3O
